US07932281B2
Synthesis of 5-t-butoxycarbonylamino-(2R)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid ethyl ester
In ethanol (60 ml), 5-t-butoxycarbonylamino-(2R)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid (1.9914 g) was dissolved. The solution was added with HOBt (770.2 mg) and WSCI hydrochloride (1.0927 g) and the whole was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was distilled off. The residue was dissolved in chloroform and washed with 1 mol/l hydrochloric acid, a 1 mol/l sodium hydroxide aqueous solution, and a saturated saline solution, followed by drying with magnesium sulfate. The residue was purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (1.9846 g) as a white solid.

reactant | 5-t-butoxycarbonylamino-(2R)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid | 1.9914 g | C(C)(C)(C)OC(=O)NCCC[C@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H30N2O6
reactant | HOBt | 770.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSCI hydrochloride | 1.0927 g | CCN=C=NCCCN(C)C.Cl
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-t-butoxycarbonylamino-(2R)-(9H-fluoren-9-ylmethoxycarbonylamino)-pentanoic acid ethyl ester | 1.9846 g | C(C)OC([C@@H](CCCNC(=O)OC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C27H34N2O6
